US07625932B2
Preparation of 5-Cyano-4-(2′-cyano-biphenyl-4-yl)-2-methyl-2H-pyrazole-3-carboxylic acid ethyl ester
Prepare a solution of 4-(2′-cyano-biphenyl-4-yl)-1-methyl-1H-pyrazole-3-carbonitrile (101 mg, 0.355 mmol, prepared in preparation 46) in 3 mL of anhydrous THF and cool to −70° C. Add n-butyl lithium (1.6M in hexanes, 0.2 mL, 0.32 mmol) dropwise, keeping the internal temperature less than −65° C. Stir the orange solution for 30 minutes at −70° C. Next, add ethyl chloroformate (0.1 mL, 1.02 mmol) and allow the reaction to warm to room temperature over one hour. Quench with 2 mL of saturated NH4Cl and dilute with 50 mL of EtOAc. Wash the organic layer with water (1×10 mL) and brine (1×10 mL) and dry over anhydrous Na2SO4. Filter, evaporate and chromatograph over silica gel (100/0-7/3 toluene/EtOAc) to give the title compound, 37 mg (29%) along with 38 mg of recovered starting material.

reactant | 4-(2′-cyano-biphenyl-4-yl)-1-methyl-1H-pyrazole-3-carbonitrile | 0.355 mmol, 101 mg | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)C=1C(=NN(C1)C)C#N | C18H12N4
reactant | n-butyl lithium | 0.32 mmol, 1.6M, 0.2 mL | C(CCC)[Li]
reactant | ethyl chloroformate | 1.02 mmol, 0.1 mL | ClC(=O)OCC | C3H5ClO2
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 5-Cyano-4-(2′-cyano-biphenyl-4-yl)-2-methyl-2H-pyrazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(N=C(C1C1=CC=C(C=C1)C1=C(C=CC=C1)C#N)C#N)C | C21H16N4O2
